US07977344B2
6-Amino-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
8-(Methoxy)-2-[(tetrahydro-2-furanyl methyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (0.1500 g) was dissolved in methanol (10 mL). To this solution was added 4N hydrogen chloride in 1,4-dioxane (2 mL). The reaction mixture was stirred for 5 hours at room temperature. The reaction mixture was evaporated under reduced pressure and then water (3 mL) and methanol (3 mL) was added to the residue to give a finely divided suspension. This was neutralised (to pH 7) by the addition of 2N sodium hydroxide and then evaporated under reduced pressure to dryness. Water (3 mL) was then added to the residue and the resultant white suspension of solid was isolated by filtration under suction. The solid was washed with methanol (1 mL) and then air-dried under suction. The solid was then dried further to constant weight under vacuo at 50° C. (˜1 hour). This gave the title compound as a white solid (0.1130 g)

reactant | 8-(Methoxy)-2-[(tetrahydro-2-furanyl methyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 0.1500 g | COC=1N(C2=NC(=NC(=C2N1)N)OCC1OCCC1)CC1CCOCC1 | C17H25N5O4
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 0.1130 g | NC1=C2NC(N(C2=NC(=N1)OCC1OCCC1)CC1CCOCC1)=O | C16H23N5O4
